* C:\Users\BZeroL\OneDrive - ITBA\Education\ITBA\ITBA - Me\2023A\Electronica IV\TPs\TP1\Simulacion\TP1.asc
Q1 VL+ N001 N002 0 BC547B
Q2 N001 N004 0 0 BC547B
Q3 0 N001 N002 0 BC557B
M1 Vd Vg 0 0 IRF530
D1 Vd Vout MUR460
R6 Vg N002 100
R1 N004 N003 470
R4 Vd VL- 0.5
R3 N001 VL+ 1k
R5 Vtrig N003 470
L1 VL+ VL- 220µ
V2 VL+ 0 12
C1 Vout 0 10µ
R2 Vout 0 100
V3 Vtrig 0 PULSE(5 0 1u 1n 1n {DT*T} {T})
.model D D
.lib C:\Users\BZeroL\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\BZeroL\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\BZeroL\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 4.05m 4m 1n
* Vin = 12V
* Vo=24V
* Delta Vo=5%
* Fsw 60KHz
;.params DT = 0.55275
.params T=16.666u
;.params DT = 0.5438447187
.params DT = 0.51
.backanno
.end
