* C:\Users\carlo\OneDrive\Escritorio\2023_1C\E4\TPs\TP1\TP1-Convertidores-DC-DC-MOS\Simulacion\TP1.asc
Q1 N001 N003 N004 0 BC547B
Q2 N003 N007 0 0 BC547B
Q3 0 N003 N004 0 BC557B
M1 Vds Vgs 0 0 IRF530
D1 Vds Vout MUR460
R6 Vgs N004 100
R1 N007 N006 .01
R4 Vds N002 0.5
R3 N003 N001 10k
R5 Vtrig N006 10k
L1 Vd N002 220µ
V2 Vd 0 12
C1 N005 0 10µ
R2 Vout 0 483
V3 Vtrig 0 PULSE(5 0 1u 1n 1n {DT*T} {T})
V1 N001 0 18
R§ESR Vout N005 .5
.model D D
.lib C:\Users\carlo\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\carlo\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\carlo\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.mos
.tran 0 4.05m 4m 1n
* Vin = 12V
* Vo=24V
* Delta Vo=5%
* Fsw 60KHz
;.params DT = 0.55275
.param T = {1/60k}
;.params DT = 0.5438447187
.params DT = 0.5
* 001C
* 003C y 014D
* 014C
* 014B
* 011B
* 014A
* 011A
* 015A
* 019B
* 019A
* 020A
* 020D
* 020F
* 018D
* 018F
* 025F
* 025G
* 030F
* 009J
* 009I
* 009E
* 008C
* 006B
* 008B
* 025I
* 030I
* 011C
* 008D
* 021A
.backanno
.end
